US06521654B2
(R)-3-((S)-2-(4,4-Dimethyl-3-(4-(3-phenylureido)benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropanal
56.5 mg of (R)-3-((S)-2-(4,4-Dimethyl-3-(4-(3-phenylureido)-benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropanol were dissolved in a mixture of 3 ml of ethyl acetate, 1 ml of toluene and 1 ml of water with 10.8 mg of potassium bromide. After addition of a catalytic amount of 4-acetamido-2,2,6,6-tetramethylpiperidine-1-oxyl (=4-acetamido-TEMPO), a mixture of 0.5 ml of sodium hypochlorite solution (13% strength), 0.5 ml of saturated sodium hydrogencarbonate solution and 1 ml of water was added dropwise at 0° C. The mixture was stirred at 0° C. for 25 minutes. After reaction was complete, the mixture was treated with ethyl acetate, and the organic phase was washed with sodium thiosulfate solution and dried over sodium sulfate. After filtration, the solvent was removed on a rotary evaporator and the residue was purified by reversed phase HPLC (water/acetonitrile). Yield: 15 mg.

reactant | (R)-3-((S)-2-(4,4-Dimethyl-3-(4-(3-phenylureido)-benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropanol | 56.5 mg | CC1(N(C(N(C1=O)[C@H](C(=O)N[C@@H](CCO)C)CC(C)C)=O)CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C | C29H39N5O5
reactant | potassium bromide | 10.8 mg | [Br-].[K+]
reactant | 4-acetamido-2,2,6,6-tetramethylpiperidine-1-oxyl | CC(=O)NC1CC(N(C(C1)(C)C)[O])(C)C | C11H21N2O2
reactant | sodium hypochlorite | 0.5 ml | Cl[O-].[Na+]
reactant | sodium hydrogencarbonate | 0.5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | (R)-3-((S)-2-(4,4-Dimethyl-3-(4-(3-phenylureido)benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropanal | CC1(N(C(N(C1=O)[C@H](C(=O)N[C@@H](CC=O)C)CC(C)C)=O)CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C | C29H37N5O5
